US08492372B2
2-HYDROXY-4-(METHYLSULFONYL)BENZOIC ACID
A solution of 1.0 M boron tribromide (44.0 ml, 44.0 mmol) in DCM (20 ml) was cooled to 0° C. 2-methoxy-4-(methylsulfonyl)benzoic acid (4.0 g, 17.4 mmol) dispergated in DCM (120 ml) was slowly added to the tribromide-solution during 20 minutes. The reaction mixture was vigorously stirred for 1.5 h at 0° C. Water was added and the organic phase was separated. The aqueous phase was extracted with DCM and EtOAc. The combined organic phases was dried (Na2SO4) and evaporated under reduced pressure to give a white powder (3.6 g). 1H-NMR (400 MHz, MeOH): δ 8.07 (1H, d, J 8.0 Hz), 7.42 (1H, d, J 2.0 Hz), δ 7.38 (1H, dd, J1 8.4 Hz, J2 1.6 Hz), δ 3.11 (3H, s).

reactant | boron tribromide | 44.0 mmol, 1.0 M, 44.0 ml | B(Br)(Br)Br | BBr3
reactant | 2-methoxy-4-(methylsulfonyl)benzoic acid | 17.4 mmol, 4.0 g | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C9H10O5S
reactant | Water | O | H2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-HYDROXY-4-(METHYLSULFONYL)BENZOIC ACID | 3.6 g | OC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H8O5S
